US09085534B2
3-[(naphthalene-1-ylmethyl)amino]pyridine-4-carboxylic acid
The title compound was prepared in 66% yield from 1-naphthylmethylamine and 3-fluoroisonicotinic acid according to the procedure for the preparation of Example 3. 1H NMR (400 MHz, DMSO-d6): δ 13.39 (br s, 1H), 8.25 (s, 1H), 8.15 (d, 1H, J=7.9 Hz), 7.98 (d, 1H, J=7.5 Hz), 7.84-7.89 (m, 2H), 7.45-7.62 (m, 5H), 5.03 (s, 2H). [M+H] calc'd for C17H14N2O2, 279; found 279.

reactant | 1-naphthylmethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | 3-fluoroisonicotinic acid | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
product | 3-[(naphthalene-1-ylmethyl)amino]pyridine-4-carboxylic acid | 66% yield | C1(=CC=CC2=CC=CC=C12)CNC=1C=NC=CC1C(=O)O | C17H14N2O2
